US08293744B2
Step 4: Preparation of 2-(2-fluoro-3-methylphenyl)-5-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one:
5-[(6′-Methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazine-3-one (40 mg, 0.11 mmol), copper(I) iodide (21 mg, 0.11 mmol, 1 equiv), potassium phosphate (0.14 g, 0.65 mmol, 6 equiv), (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine (46 mg, 0.32 mmol, 3 equiv) and 2-fluoro-1-iodo-3-methylbenzene (64 mg, 0.27 mmol, 2.5 equiv) were combined in degassed N,N-dimethylformamide (2.5 mL) and placed into an oil bath preheated to 110° C. for 45 min. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (100 mL, aqueous saturated) and extracted with ethyl acetate (3×75 mL). The combined organic extracts were washed once with brine (50 mL), dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 10% methanol), providing the titled compound as a red solid: 1H-NMR (400 MHz, CDCl3) δ 9.04 (1H, d, J=1.8 Hz), 8.97 (1H, d, J=1.7 Hz), 8.79 (1H, dd, J=4.6, 1.9 Hz), 8.56 (1H, dd, J=8.0, 1.8 Hz), 8.18 (1H, dd, J=8.1, 2.2 Hz), 8.01 (1H, dd, J=8.2, 2.3 Hz), 7.70 (1H, dd, J=8.2, 0.6 Hz), 7.52 (1H, dd, J=8.0, 4.6 Hz), 7.41-7.37 (1H, ), 7.27-7.22 (2H, m), 7.15 (1H, ap t, J=7.9 Hz), 6.01 (2H, s), 2.60 (3H, s), 2.36 (1H, J=2.0 Hz) ppm; high resolution mass spectrometry (ES+) m/z 478.1783 [(M+H)+; calculated for C27H21FN7O: 478.1786].

reactant | 5-[(6′-Methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazine-3-one | 0.11 mmol, 40 mg | CC1=CC=C(C=N1)C1=NC=C(C=C1)CN1N=C2C(C3=C1N=CC=C3)=NNC2=O | C20H15N7O
reactant | potassium phosphate | 0.65 mmol, 0.14 g, 6 equiv | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | (±)-trans-N,N′-bismethyl-1,2-cyclohexanediamine | 0.32 mmol, 46 mg, 3 equiv | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 2-fluoro-1-iodo-3-methylbenzene | 0.27 mmol, 64 mg, 2.5 equiv | FC1=C(C=CC=C1C)I | C7H6FI
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 0.11 mmol, 21 mg, 1 equiv | [Cu]I
product | 2-(2-fluoro-3-methylphenyl)-5-[(6′-methyl-2,3′-bipyridin-5-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one | FC1=C(C=CC=C1C)N1N=C2C(=NN(C3=C2C=CC=N3)CC=3C=CC(=NC3)C=3C=NC(=CC3)C)C1=O | C27H20FN7O
